US04971620
(b) Preparation of 3-[N-(2,5-dimethylphenylsulfonyl)-N-methylamino]-2-phenylpropane-1,2-diol
A mixture of 3.50 g of 1-acetoxy-3-[N-(2,5-dimethylphenylsulfonyl)-N-methylamino]-2-phenyl-2-propanol prepared in the above-described way, 3 ml of triethylamine, 3 ml of water and 6 ml of methanol was stirred at room temperature for 4 hours. After distilling off the solvent, the residue was purified by silica gel column chromatography (developing solvent: benzene-ethyl acetate (4:1)) to obtain 2.80 g of the titled compound.

reactant | 1-acetoxy-3-[N-(2,5-dimethylphenylsulfonyl)-N-methylamino]-2-phenyl-2-propanol | 3.50 g | C(C)(=O)OCC(CN(C)S(=O)(=O)C1=C(C=CC(=C1)C)C)(O)C1=CC=CC=C1 | C20H25NO5S
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | water | 3 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 3-[N-(2,5-dimethylphenylsulfonyl)-N-methylamino]-2-phenylpropane-1,2-diol | 2.80 g | CC1=C(C=C(C=C1)C)S(=O)(=O)N(C)CC(CO)(O)C1=CC=CC=C1 | C18H23NO4S
